US04544621
N-(chloromethylcarbonyloxyhexyl)dimethylmaleimide
A mixture of 67.6 g (0.30 mole) of N-(6-hydroxyhexyl)dimethylmaleimide, 34.0 g (0.36 mole) of chloroacetic acid, 3.5 g of concentrated sulfuric acid and 300 ml of toluene is reacted and worked up as described in Example 1. The residue consists of 86.6 g of a colourless oil.

reactant | N-(6-hydroxyhexyl)dimethylmaleimide | 0.30 mole, 67.6 g | OCCCCCCN1C(C(=C(C1=O)C)C)=O | C12H19NO3
reactant | chloroacetic acid | 0.36 mole, 34.0 g | ClCC(=O)O | C2H3ClO2
reactant | sulfuric acid | 3.5 g | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | N-(chloromethylcarbonyloxyhexyl)dimethylmaleimide | ClCC(=O)OCCCCCCN1C(C(=C(C1=O)C)C)=O | C14H20ClNO4
